US08426420B2
4-[(S)-5-Acetoxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanoyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 65 mg 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-hydroxy-pentanoyl]-piperazine-1-carboxylic acid butyl ester in 4 ml dichloromethane were added 15 l pyridine, 10 l acetic anhydride and a catalytic amount of DMAP. After stirring for 24 h at room temperature the reaction mixture was concentrated and the crude product thus obtained was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-hydroxy-pentanoyl]-piperazine-1-carboxylic acid butyl ester | 65 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C35H49N7O8
reactant | pyridine | 15 l | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 10 l | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[(S)-5-Acetoxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanoyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCOC(C)=O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C37H51N7O9
